US04683241
4,4'-di(t-butyloxycarbonyloxy)benzophenone
2.14 (0.01 mole) of 4,4'-dihydroxybenzophenone and 4.4 g (0.02 mole) of di-tert-butyl dicarbonate in 30 ml of dry pyridine was warmed to 50° C. until evolution of CO2 ceased. (2.0 h) Upon the addition of water, crystals of the title compound were obtained which were crystallized from ethanol; 3.6 g (86%) yield; M.P.~141°-143° C.

reactant | 4,4'-dihydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | di-tert-butyl dicarbonate | 0.02 mole, 4.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | CO2 | C(=O)=O | CO2
reactant | water | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4,4'-di(t-butyloxycarbonyloxy)benzophenone | C(C)(C)(C)OC(=O)OC1=CC=C(C(=O)C2=CC=C(C=C2)OC(=O)OC(C)(C)C)C=C1 | C23H26O7
